US07179804B2
1-(3,5-Bis-trifluoromethyl-benzyl)-5-pyridin-3-yl-1H-imidazole-4-carboxylic acid methoxy-N-methyl-amide
Combine 1-(3,5-Bis-trifluoromethyl-benzyl)-5-pyridin-3-yl-1H-imidazole-4-carboxylic acid methyl ester (0.46 g, 1.1 mmol) and N,O-dimethyl-hydroxylamine-HCl (0.16 g, 1.6 mmol) in THF (5.5 mL). Chill to 0° C., then slowly add isopropyl magnesium chloride (2M/THF, 1.6 mL, 3.2 mmol). After 45 min., warm to RT. Add 70% sat. aq. NH4Cl, and extract with EtOAc. Dry over MgSO4, filter, and concentrate. Purify by flash chromatography on silica gel to give the title compound: MS (ES) 459.2 (M+1); 1H NMR (300 MHz, CDCl3) δ 8.63 (d, J=4.8 Hz, 1H), 8.52 (app d, 1H), 7.79 (s, 1H), 7.73 (s, 1H), 7.63 (app d, J=8.1 Hz, 1H), 7.35–7.31 (m, 1H), 7.30 (s, 2H), 5.21 (s, 2H), 3.79 (s, 3H), 3.37 (br s, 3H).

reactant | 1-(3,5-Bis-trifluoromethyl-benzyl)-5-pyridin-3-yl-1H-imidazole-4-carboxylic acid methyl ester | 1.1 mmol, 0.46 g | COC(=O)C=1N=CN(C1C=1C=NC=CC1)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C19H13F6N3O2
reactant | N,O-dimethyl-hydroxylamine-HCl | 1.6 mmol, 0.16 g | Cl.CNOC
reactant | isopropyl magnesium chloride | 3.2 mmol, 2M, 1.6 mL | C(C)(C)[Mg]Cl
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 5.5 mL | C1CCOC1 | C4H8O
product | 1-(3,5-Bis-trifluoromethyl-benzyl)-5-pyridin-3-yl-1H-imidazole-4-carboxylic acid methoxy-N-methyl-amide | CON(C(=O)C=1N=CN(C1C=1C=NC=CC1)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C | C20H16F6N4O2
